US04579849
7-Methyl-9-(2-hydroxyethoxymethyl)guanine iodide
To a stirred solution of 9-(2-hydroxyethoxymethyl)guanine (1.0 g; 4.44 mmol) in dry DMF (50 ml) was added a solution of methyl iodide (680 mg, 4.77 mmol) in dry DMF (2 ml). This mixture was heated under a reflux condenser under N2 at 57° C. overnight. The mixture was concentrated in vacuo to an oil and the evaporation was repeated several times from MeOH. The residue was dissolved in MeOH (20 ml) and 2-propanol (150 ml) was added and the mixture was stirred overnight. A yellow solid was obtained which was filtered off (200 mg). This was recrystallized from MeOH (25 ml) (solution filtered through a little charcoal). Crystallization was induced by concentration of the solution, cooling and by the addition of a little 2-propanol.

reactant | 9-(2-hydroxyethoxymethyl)guanine | 4.44 mmol, 1.0 g | OCCOCN1C=2N=C(NC(C2N=C1)=O)N | C8H11N5O3
reactant | methyl iodide | 4.77 mmol, 680 mg | CI | CH3I
solvent | DMF | 50 ml | CN(C)C=O | C3H7NO
solvent | DMF | 2 ml | CN(C)C=O | C3H7NO
product | 7-Methyl-9-(2-hydroxyethoxymethyl)guanine iodide | [I-].CN1CN(C=2N=C(NC(C12)=O)N)COCCO | InChI=1S/C9H15N5O3.HI/c1-13-4-14(5-17-3-2-15)7-6(13)8(16)12-9(10)11-7;/h15H,2-5H2,1H3,(H3,10,11,12,16);1H/p-1
